US06713474B2
A mixture of perhydro-1-pyrrolizinol (0.5 g, 3.94 mmol) and triethylamine (0.60 g, 5.91 mmol) in dichloromethane (10 ml) was stirred at 0° C. under an atmosphere of nitrogen. Methanesulfonyl chloride (0.68 g, 5.91 mmol) was added, then the mixture was allowed to warm to ambient temperature and stirred for 8 hours. Saturated aqueous ammonium chloride (10 ml), dichloromethane (25 ml) and saturated aqueous sodium bicarboante (10 ml) were added. The organic layer was dried over magnesium sulfate filtered and the filtrate evaporated under reduced pressure to give a residue. Purification of the material by flash chromatography on silica gel using heptane/ethyl acetate (1:3) as an eluent yielded perhydro-l-pyrrolizinyl methanesulfonate (0.54 g): 1H NMR (DMSO-d6, 400 MHz) δ 4.96 (m, 1H), 3.61 (m, 1H), 2.9-3.3 (m, 6H), 2.35 (m, 1H), 1.55-2.25 (m, 6H).

reactant | perhydro-1-pyrrolizinol | 3.94 mmol, 0.5 g | C1(CCN2CCCC12)O | C7H13NO
reactant | triethylamine | 5.91 mmol, 0.60 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 5.91 mmol, 0.68 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
reactant | sodium | [Na] | Na
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | perhydro-l-pyrrolizinyl methanesulfonate | 0.54 g | CS(=O)(=O)OC1CCN2CCCC12 | C8H15NO3S
